US06566535B1
Under an argon flow, 30.5 g of crude 2-fluoro-5-(4-propoxyphenyl)benzaldehyde was dissolved in 59 ml of DMF and then cooled to 5° C. After the addition of ethyl 4-mercaptobutyrate (32.6 ml, 229.88 mmol), 1,8-diazabicyclo[5.4.0]-7-undecene (34.4 ml, 229.88 mmol) was dropped slowly, while keeping at 0-10° C. The mixture was heated to 20° C. and stirred at 20-30° C. for 3 hours. At 20-30° C., 590 ml of diethyl carbonate was dropped and subsequently an ethanol solution (156 g, 459.76 mmol) of 20% sodium ethoxide was dropped. After stirring at 20-30° C. for 3 hours, the mixture was cooled to 5° C. After adding 338 ml of a 2N hydrochloric acid while keeping 10° C. or lower, phase separation was conducted. The water layer was extracted with 290 ml of ethyl acetate. The organic layers were combined and washed with 300 ml of water, 300 ml of a 5% aqueous sodium hydrogencarbonate solution and 300 ml of a 5% brine. After the addition of activated carbon, Shirasagi A (3.5 g), followed by the addition of tri-n-butylphosphine (4 ml), the mixture was stirred at room temperature for 20 minutes. After filtration, the residue was washed with 60 ml of ethyl acetate and the filtrate was concentrated under reduced pressure. After addition of 60 ml of isopropyl alcohol, the mixture was concentrated under reduced pressure. Subsequently, 60 ml of isopropyl ether was added and stirred at room temperature. The crystals formed were dissolved on heating under reflux. The solution was cooled for 1.5 hours while being stirred and subsequently stirred for 2 hours while being cooled in ice. After filtration, the residue was washed with 60 ml of ice-cooled isopropyl ether and then dried under vacuum (40° C.), yielding 20.34 g of ethyl 7-(4-propoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate as pale yellow crystals (Yield from 5-bromo-2-fluorobenzaldehyde 48%).

reactant | 2-fluoro-5-(4-propoxyphenyl)benzaldehyde | 30.5 g | FC1=C(C=O)C=C(C=C1)C1=CC=C(C=C1)OCCC | C16H15FO2
reactant | ethyl 4-mercaptobutyrate | 229.88 mmol, 32.6 ml | SCCCC(=O)OCC | C6H12O2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 229.88 mmol, 34.4 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | diethyl carbonate | 590 ml | C(OCC)(OCC)=O | C5H10O3
reactant | ethanol | 459.76 mmol, 156 g | C(C)O | C2H6O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
solvent | DMF | 59 ml | CN(C)C=O | C3H7NO
product | ethyl 7-(4-propoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 20.34 g | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)OCC)C1 | C22H24O3S
